US09303016B2
Synthesis of 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane, Intermediate-20
To a 50 mL RB flask fitted with magnetic stirrer was charged tert-butyl 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate, Intermediate-19 (50 mg, 0.016 mmol) in DCM (5 mL). Then reaction mixture was cooled to 0° C. and trifluoroacetic acid (0.099 g, 0.084 mmol) was added and stirred for 4 hours. After completion of the reaction (reaction was monitored by LCMS) the reaction mixture was concentrated followed by trituration with mixture of hexane:ether (1:1) to give Intermediate-20 (50 mg, yield=95%) as an oily mass.

reactant | tert-butyl 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane-2-carboxylate | C1(CC1)COC12CC3N(C(CC(C1)C3)C2)C(=O)OC(C)(C)C | C18H29NO3
reactant | trifluoroacetic acid | 0.084 mmol, 0.099 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(cyclopropylmethoxy)-2-azatricyclo[3.3.1.13,7]decane | yield=95% | C1(CC1)COC12CC3NC(CC(C1)C3)C2 | C13H21NO
